US05750531
Synthesis of 6-ethyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methylaniline(0.46 ml, 4.31 mmol) was added to a mixture solution of 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.61 g, 2.12 mmol) and dimethylformamide(5 ml), 0.52 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methylaniline | 4.31 mmol, 0.46 ml | CC1=C(N)C=CC=C1 | C7H9N
reactant | 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.12 mmol, 0.61 g | C(C)C1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.52 g, Yield: 62% | Cl.C(C)C1=CC(=NC(=N1)NC1=C(C=CC=C1)C)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C23H26N4.ClH/c1-4-19-15-22(26-23(24-19)25-21-12-8-5-9-16(21)2)27-14-13-18-10-6-7-11-20(18)17(27)3;/h5-12,15,17H,4,13-14H2,1-3H3,(H,24,25,26);1H
